US04948794
A solution of 10 g (58 mmol) 5-chloro-2-nitroaniline in 250 ml dry tetrahydrofuran was added 8.5 ml (62 mmol) dry triethylamine. A solution of 7.0 ml (62.7 mmol) ethoxalylchloride in 50 ml dry tetrahydrofuran was added dropwise. Stirring was continued at 25° C. for 20 h. The reaction mixture was filtered and evaporated in vacuo. The residue was stirred with ethanol to give 9.0 g (57%) 4-chloro-2-ethoxalylamino-1-nitrobenzene. M.p. 105.1° C.

reactant | 5-chloro-2-nitroaniline | 58 mmol, 10 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | triethylamine | 62 mmol, 8.5 ml | C(C)N(CC)CC | C6H15N
reactant | ethoxalylchloride | 62.7 mmol, 7.0 ml | C(=O)(C(=O)OCC)Cl | C4H5ClO3
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-chloro-2-ethoxalylamino-1-nitrobenzene | 9.0 g, 57% | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC(=O)C(=O)OCC | C10H9ClN2O5
